US08580841B2
Step A: Preparation of 1-(2-(Trifluoromethyl)phenyl)cyclopentanol.
A solution of 1-bromo-2-(trifluoromethyl)benzene (0.5 g, 2.222 mmol) in anhydrous THF (10 mL) was cooled to −78° C. (dry ice IPA bath) under argon atmosphere. BuLi (2.5 M in hexanes, 1.068 mL, 2.67 mmol) was added in drops with efficient stirring. The reaction mixture was stirred at −78° C. for 40 min. A solution of cyclopentanone (0.243 g, 2.89 mmol) in anhydrous THF (1.5 mL) was added slowly (in drops) at −78° C. The reaction mixture was stirred at −78° C. for 30 min, gradually brought to room temperature, and stirred for 1 h. The reaction mixture was cooled by an ice bath, quenched with water, and acidified to pH 4-5 by addition of concentrated HCl. The solvent was removed under reduced pressure. The residue was dissolved in methylene chloride, washed with water (2 times), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography to give the title compound as an oil (250 mg). LCMS m/z=213.1 [M−H2O+H]+.

reactant | 1-bromo-2-(trifluoromethyl)benzene | 2.222 mmol, 0.5 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | BuLi | 2.67 mmol, 2.5 M, 1.068 mL | [Li]CCCC
reactant | cyclopentanone | 2.89 mmol, 0.243 g | C1(CCCC1)=O | C5H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 1-(2-(Trifluoromethyl)phenyl)cyclopentanol | 250 mg | FC(C1=C(C=CC=C1)C1(CCCC1)O)(F)F | C12H13F3O
